US07968573B2
To a mixture of 1.0 g of 4,5-dibromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carbaldehyde, 15 ml of acetone and 7 ml of water was slowly added 1.3 g of potassium permanganate at 40° C. The resulting mixture was stirred at 60° C. for 2 hours. Precipitates in the reaction mixture were removed by filtration. The resulting filtrate was washed with chloroform two times. The aqueous layer was adjusted to around pH 3 by an addition of 2N hydrochloric acid and then extracted with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 0.69 g of 4,5-dibromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid of the formula:

reactant | 4,5-dibromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carbaldehyde | 1.0 g | BrC=1C=C(N(C1Br)C1=NC=CC=C1Cl)C=O | C10H5Br2ClN2O
reactant | acetone | 15 ml | CC(=O)C | C3H6O
reactant | potassium permanganate | 1.3 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 7 ml | O | H2O
product | 4,5-dibromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid | 0.69 g | BrC=1C=C(N(C1Br)C1=NC=CC=C1Cl)C(=O)O | C10H5Br2ClN2O2
